US05410067
In a first stage, 5,6-diacetoxyindole and 5,6-dibenzyloxyindole are prepared by means of a cyclizing reduction. In the case of 5,6-dibenzyloxyindole the cyclizing reduction is carried out using iron in the presence of acetic acid. In a second stage, 5,6-dihydroxyindole is obtained:

reactant | 5,6-diacetoxyindole | C(C)(=O)OC=1C=C2C=CNC2=CC1OC(C)=O | C12H11NO4
reactant | 5,6-dibenzyloxyindole | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1OCC1=CC=CC=C1 | C22H19NO2
catalyst | iron | [Fe] | Fe
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5,6-dihydroxyindole | OC=1C=C2C=CNC2=CC1O | C8H7NO2
